US05993780
a. 5-Amino-3-acetoxymethyl-N-(1,3-dihydroxyprop-2-yl)-2,4,6-triiodobenzamide
5-Amino-3-acetoxymethyl-2,4,6-triiodobenzoyl chloride was reacted with serinol according to the conditions in Example 24g. The product was isolated in 95% yield.

reactant | 5-Amino-3-acetoxymethyl-2,4,6-triiodobenzoyl chloride | NC=1C(=C(C(=C(C(=O)Cl)C1I)I)COC(C)=O)I | C10H7ClI3NO3
reactant | serinol | NC(CO)CO | C3H9NO2
product | 5-Amino-3-acetoxymethyl-N-(1,3-dihydroxyprop-2-yl)-2,4,6-triiodobenzamide | 95% yield | NC=1C(=C(C(=C(C(=O)NC(CO)CO)C1I)I)COC(C)=O)I | C13H15I3N2O5
